US20010006969A1
2-Allylamino-6-nitro-4-pentylaminoquinazoline hydrochloride
To 170 mg (0.61 mmol) of 2-chloro-6-nitro-4-pentylaminoquinazoline was added 1.52 g (26.66 mmol) of allylamine, followed by stirring at room temperature overnight. To the reaction solution was water added, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 160 mg (yield: 83.6%) of a free base compound of the title compound.

reactant | 2-chloro-6-nitro-4-pentylaminoquinazoline | 0.61 mmol, 170 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCCCCC)[N+](=O)[O-] | C13H15ClN4O2
reactant | allylamine | 26.66 mmol, 1.52 g | C(C=C)N | C3H7N
solvent | water | O | H2O
product | 2-Allylamino-6-nitro-4-pentylaminoquinazoline hydrochloride | Cl.C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NCCCCC)[N+](=O)[O-] | InChI=1S/C16H21N5O2.ClH/c1-3-5-6-10-17-15-13-11-12(21(22)23)7-8-14(13)19-16(20-15)18-9-4-2;/h4,7-8,11H,2-3,5-6,9-10H2,1H3,(H2,17,18,19,20);1H
